US06583155B2
[3-(1-{3-[5-Methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)-2-oxo-2,3-dihydro-benzoimidazol-1-yl]-acetonitrile
1-(3-Hydroxy-propyl)-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester (268 mg, 0.63 mmol) was dissolved in CH2Cl2 (10 mL) and TFA (10 mL). The mixture was stirred for 1 h then concentrated to dryness. The residue was dissolved in CH2Cl2 (4.0 mL), cooled to 0° C. and treated with i-Pr2NEt (0.36 mL, 2.1 mmol), followed by methanesulfonyl chloride (0.16 mL, 2.1 mmol). The reaction mixture was stirred for 4 h, then diluted with EtOAc (200 mL) and washed with saturated aqueous NaHCO3 (2×25 mL). The washes were extracted with EtOAc (2×25 mL). The combined extracts were dried over Na2SO4 and concentrated. A portion of the crude mesylate (197 mg, ca. 0.41 mmol) was combined with (2-oxo-3-piperidin-4-yl-2,3-dihydro-benzoimidazol-1-yl)-acetonitrile (321 mg, 1.25 mmol) in CH2Cl2 (2.0 mL) and DMF (0.5 mL). The resulting mixture was treated with i-Pr2NEt (0.22 mL, 1.3 mmol) and stirred for 60 h. The reaction mixture was partitioned between EtOAc (150 mL) and saturated aqueous NaHCO3 (75 mL). The EtOAc layer was washed with H2O (2×75 mL), and brine (75 mL). The combined washes were extracted with EtOAc (3×50 mL). The combined extracts were dried over Na2SO4 and concentrated. Purification of the residue by preparative TLC (silica, 1% MeOH/CH2Cl2 then 25% acetone/CH2Cl2) gave 37 mg (14%) of the title compound. HPLC (reverse phase conditions), tR=2.94 min. MS (electrospray): m/z calculated for C31H35F3N7O3S [M++H] 642.25, found 642.25. 1H NMR (CDCl3, 400 MHz): 7.73 and 7.76 (A and B of AA′BB′ Jab=8.2 Hz, 4H), 7.26-7.05 (m, 4H), 4.81 (s, 2H), 4.56 (s, 2H), 4.26 (m, 1H), 4.15 (t, J=6.8 Hz, 2H), 3.70 (t, J=5.8 Hz, 2H), 3.03 (brd, J=11.1 Hz, 2H), 2.95 (t, J=5.7 Hz, 2H), 2.91 (s, 3H), 2.43 (m, 4H), 2.12 (m, 4H), 1.82 (br d, J=9.9 Hz, 2H).

reactant | 1-(3-Hydroxy-propyl)-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | 0.63 mmol, 268 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCCO | C21H26F3N3O3
reactant | i-Pr2NEt | 2.1 mmol, 0.36 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 2.1 mmol, 0.16 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | mesylate | ca. 0.41 mmol, 197 mg | S(C)(=O)(=O)[O-]
reactant | (2-oxo-3-piperidin-4-yl-2,3-dihydro-benzoimidazol-1-yl)-acetonitrile | 1.25 mmol, 321 mg | O=C1N(C2=C(N1CC#N)C=CC=C2)C2CCNCC2 | C14H16N4O
reactant | i-Pr2NEt | 1.3 mmol, 0.22 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | [3-(1-{3-[5-Methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)-2-oxo-2,3-dihydro-benzoimidazol-1-yl]-acetonitrile | 37 mg, 14% | CS(=O)(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCCN2CCC(CC2)N2C(N(C1=C2C=CC=C1)CC#N)=O | C31H34F3N7O3S
